US04731368
Step B: Preparation of N,N-Dimethyl-N'-(6-oxido-thieno-[2,3-c]pyridine-2-sulfonyl)formamidine
To a solution of N,N-dimethyl-N'-(thieno[2,3-c]pyridine-2-sulfonyl)formamidine (2.05 g, 7.6 mmol) in chloroform (30 ml) was added dropwise a solution of m-chloroperbenzoic acid (1.82 g, 8.5 mmol) in ethyl acetate (17 ml). After stirring at room temperature for 18 hours, the precipitated product was collected on a filter. The filtrate was concentrated to obtain additional product. The combined material (2.08 g) was crystallized from chloroform to give 1.98 g (91% yield) of pure product; m.p. 237°-239° C.

reactant | N,N-dimethyl-N'-(thieno[2,3-c]pyridine-2-sulfonyl)formamidine | 7.6 mmol, 2.05 g | CN(C=NS(=O)(=O)C1=CC=2C(=CN=CC2)S1)C | C10H11N3O2S2
reactant | m-chloroperbenzoic acid | 8.5 mmol, 1.82 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 17 ml | C(C)(=O)OCC | C4H8O2
product | N,N-Dimethyl-N'-(6-oxido-thieno-[2,3-c]pyridine-2-sulfonyl)formamidine | 1.98 g, 91% yield | CN(C=NS(=O)(=O)C1=CC=2C(=C[N+](=CC2)[O-])S1)C | C10H11N3O3S2
